US08729102B2
A) tert-butyl [(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-methylisoxazol-3-yl}oxy)-1-methylethyl]carbamate
Under an argon atmosphere, to a solution of tert-butyl [(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate (644 mg) in THF (15 mL) was added dropwise a hexane solution (1.6 M, 2.156 mL) of n-butyllithium at −78° C., and the mixture was stirred at −78° C. for 20 min. To the reaction mixture was added iodomethane (0.140 mL), and the mixture was stirred at −78° C. for 15 min, and then at 0° C. for 1 hr. The reaction mixture was neutralized with 1M hydrochloric acid, and extracted with ethyl acetate. The combined organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (46.0 mg).

reactant | tert-butyl [(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate | 644 mg | C1(CC1)COC=1C=CC2=C(N=C(O2)C2=CC(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C22H27N3O6
reactant | n-butyllithium | C(CCC)[Li]
reactant | iodomethane | 0.140 mL | IC | CH3I
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M, 2.156 mL | CCCCCC | C6H14
product | tert-butyl [(1S)-2-({5-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-4-methylisoxazol-3-yl}oxy)-1-methylethyl]carbamate | 46.0 mg | C1(CC1)COC=1C=CC2=C(N=C(O2)C2=C(C(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C)C1 | C23H29N3O6
